US07919519B2
Dess-Martin reagent (0.411 g, 0.970 mmol) was added to a solution of 1-(4-(5-benzylbenzofuran-2-yl)-3-fluorophenyl)ethanol (0.280 g, 0.808 mmol) in DCM (25 mL) and stirred at room temperature for 1 h. The mixture was treated with saturated aqueous NaHCO3, stirred for 5 min, and extracted with DCM. The combined organic layers were dried over MgSO4 and evaporated. Purification by flash chromatography using EtOAc/hexanes gave 1-(4-(5-benzylbenzofuran-2-yl)-3-fluorophenyl)ethanone. 1H NMR (300 MHz, CDCl3) δ ppm 8.11 (t, J=7.7 Hz, 1H), 7.68-7.88 (m, 2H), 7.41-7.48 (m, 2H), 7.12-7.35 (m, 7H), 4.09 (s, 2H), 2.63 (s, 3H). MS (ESI) m/z: Calculated; 344.4 Observed: 345.0 (M++1).

reactant | Dess-Martin reagent | 0.970 mmol, 0.411 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | 1-(4-(5-benzylbenzofuran-2-yl)-3-fluorophenyl)ethanol | 0.808 mmol, 0.280 g | C(C1=CC=CC=C1)C=1C=CC2=C(C=C(O2)C2=C(C=C(C=C2)C(C)O)F)C1 | C23H19FO2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-(5-benzylbenzofuran-2-yl)-3-fluorophenyl)ethanone | C(C1=CC=CC=C1)C=1C=CC2=C(C=C(O2)C2=C(C=C(C=C2)C(C)=O)F)C1 | C23H17FO2
